US07863283B2
N′-(5-Amino-2-cyanophenyl)-N,N-dimethylformimidamide
N′-(2-Cyano-5-nitrophenyl)-N,N-dimethylformimidamide (1.0 g, 4.58 mmol) is dissolved in 100 mL of tetrahydrofuran, cooled to 0° C. and admixed with titanium trichloride solution (69 mL of a 15% solution in 10% aqueous HCl). Then, the batch is stirred at room temperature for 4 hours and adjusted at 0° C. to pH 9 with 2N aqueous sodium hydroxide solution. The mixture is diluted with water and ethyl acetate. The aqueous phase is saturated with sodium chloride and stirred out three times with ethyl acetate. The combined organic phases are dried over sodium sulphate. Removal of the solvent and also chromatographic purification (silica gel, n-hexane/ethyl acetate:→100% ethyl acetate) gives the desired product in 73% yield (630 mg).

reactant | N′-(2-Cyano-5-nitrophenyl)-N,N-dimethylformimidamide | 4.58 mmol, 1.0 g | C(#N)C1=C(C=C(C=C1)[N+](=O)[O-])N=CN(C)C | C10H10N4O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | HCl | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
product | N′-(5-Amino-2-cyanophenyl)-N,N-dimethylformimidamide | 73% yield | NC=1C=CC(=C(C1)N=CN(C)C)C#N | C10H12N4
